US08278473B2
To a solution of 1.83 g (4.59 mmol) of phenyl 2,3-dibromo-2-methyl-N-phenylpropanimidate in 10 ml of THF was added 770 mg (5.05 mmol) of 1,8-diazabicyclo[5.4.0]-7-undecene and stirred at room temperature for 2 hours. To the mixture was added 1N HCl and extracted with tert-butyl methyl ether. The combined organic layer was washed sequentially with a saturated aqueous NaHCO3 solution and a saturated NaCl solution, dried over anhydrous MgSO4, and then concentrated under vacuum. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=20/1) to obtain 1.26 g of phenyl 3-bromo-2-methyl-N-phenyl-2-propenimidate.

reactant | phenyl 2,3-dibromo-2-methyl-N-phenylpropanimidate | 4.59 mmol, 1.83 g | BrC(C(OC1=CC=CC=C1)=NC1=CC=CC=C1)(CBr)C | C16H15Br2NO
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 5.05 mmol, 770 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | phenyl 3-bromo-2-methyl-N-phenyl-2-propenimidate | 1.26 g | BrC=C(C(OC1=CC=CC=C1)=NC1=CC=CC=C1)C | C16H14BrNO
